US08791129B2
280 mg of methyl 1-{2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]benzyl}pyrrolidine-2-carboxylate are dissolved in 5 ml of tetrahydrofuran. 5 ml of 2N sodium hydroxide solution are added, and the mixture is stirred at 25° C. for 16 h. The mixture is evaporated in vacuo and acidified using 2N hydrochloric acid, during which the product precipitates out. Filtration and drying at 40° C. in vacuo gives 1-{2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]benzyl}pyrrolidine-2-carboxylic acid.

reactant | methyl 1-{2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]benzyl}pyrrolidine-2-carboxylate | 280 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(CN2C(CCC2)C(=O)OC)C=CC=C1 | C30H29N5O3
reactant | sodium hydroxide | 2N, 5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-{2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]benzyl}pyrrolidine-2-carboxylic acid | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(CN2C(CCC2)C(=O)O)C=CC=C1 | C29H27N5O3
